US07132539B2
Preparation of 2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionamide HCl (38):
[2-[4-(1-carbamoyl-2-naphthalen-2-yl-ethyl)-2-ethyl-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester, 37, (0.26 g, 0.5 mmol) is dissolved in 4M HCl in dioxane (7 mL). The reaction mixture is stirred for 60 minutes, then 1,2-dichloroethane (7 mL) is added. The solution is concentrated in vacuo to afford 0.24 g (quantitative yield) of the desired product.

reactant | [2-[4-(1-carbamoyl-2-naphthalen-2-yl-ethyl)-2-ethyl-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(N)=O)CC)CC1=CC=C(C=C1)F)=O | C33H41FN4O4
reactant | 1,2-dichloroethane | 7 mL | ClCCCl | C2H4Cl2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionamide HCl | 0.24 g, quantitative yield | Cl.NC(C(=O)N1C(CN(CC1)C(C(=O)N)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)F | InChI=1S/C28H33FN4O2.ClH/c1-2-24-18-32(13-14-33(24)28(35)25(30)16-19-8-11-23(29)12-9-19)26(27(31)34)17-20-7-10-21-5-3-4-6-22(21)15-20;/h3-12,15,24-26H,2,13-14,16-18,30H2,1H3,(H2,31,34);1H
